US07485732B2
Step 1: (1S)-1-(3,5-difluorophenyl)-1-[1-(diphenylmethyl)azetidin-3-yl]-2-methylpropan-2-ol
A suspension of 67.03 g (272 mmole) of CeCl3 in 500 mL dry THF was stirred in a 2L three-necked flask under N2 at rt. After 30 minutes, the mixture was cooled to −78° C. in a dry ice-acetone bath and 155 mL of a 1.6M solution of methyllithium in ether was added dropwise with vigorous stirring. The yellow-green mixture was stirred at −78° C. for an additional 30 minutes and then a solution of 28.75 g (70.6 mmole) of methyl (3,5-difluorophenyl)[1-(diphenylmethyl)azetidin-3-yl]acetate in 100 mL of dry THF was added over 30 minutes, at such a rate as to keep the temperature below −60° C. The mixture was left stirring at −78° C. for 1 h, then excess carbanion was decomposed by the dropwise addition of 20 mL of methanol and 1000 mL of ether while the solution warmed to −40° C. The reaction was quenched by addition of saturated aqueous NH4Cl until the most of the solids had precipitated to the bottom surface of the flask. The liquid layer was decanted into a 2L separatory funnel and the solids were triturated with three 200 mL portions of dichloromethane. The combined organic layers were washed with two 400 mL portions of aqueous NH4Cl solution and brine, then dried over Na2SO4 and concentrated to a white solid. The residue was purified on ChiralPak AD resin using 5% isopropanol-heptane. Fractions containing the faster enantiomer were pooled and concentrated to afford the title compound, which is the (+) enantiomer; 1H NMR(CDCl3) δ 1.07 (s, 3H), 1.14 (S, 3H), 2.28 (t, 1H, J=7.5 Hz), 2.74 (d, 1H, J=10.7 Hz), 2.82 (t, 1H, J=7.5 Hz), 3.10-3.16 (m, 2H), 3.62 (m, 1H), 4.20 (s, 1H), 6.67-6.73 (m, 3H), 7.21-7.45 (m, 10H); Mass Spectrum: m/e=408.

reactant | methyllithium | C[Li]
reactant | methyl (3,5-difluorophenyl)[1-(diphenylmethyl)azetidin-3-yl]acetate | 70.6 mmole, 28.75 g | FC=1C=C(C=C(C1)F)C(C(=O)OC)C1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C25H23F2NO2
reactant | methanol | 20 mL | CO | CH4O
reactant | ether | CCOCC | C4H10O
reactant | ether | 1000 mL | CCOCC | C4H10O
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (1S)-1-(3,5-difluorophenyl)-1-[1-(diphenylmethyl)azetidin-3-yl]-2-methylpropan-2-ol | FC=1C=C(C=C(C1)F)[C@@H](C(C)(O)C)C1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C26H27F2NO
